US05132377
N-α-methylbenzyl-N,N-dimethylanilinium hexafluoroantimonate
4.218 g (0.03 mol) of α-methylbenzyl chloride and 3.638 g (0.03 mol) of N,N-dimethylaniline were reacted in 40 ml of methanol at 40° C. for 3 days. After the reaction, the solvent was evaporated in vacuo and ether-water was added to the residue to extract unreacted reactants in the etherial layer. To the aqueous layer was added 7.77 g (0.03 mol) of sodium hexafluoroantimonate. The resulting crystals were suction filtered, washed and dried to give the title compound.

reactant | α-methylbenzyl chloride | 0.03 mol, 4.218 g | CC(C1=CC=CC=C1)Cl | C8H9Cl
reactant | N,N-dimethylaniline | 0.03 mol, 3.638 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | sodium hexafluoroantimonate | 0.03 mol, 7.77 g | F[Sb-](F)(F)(F)(F)F.[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | N-α-methylbenzyl-N,N-dimethylanilinium hexafluoroantimonate | F[Sb-](F)(F)(F)(F)F.CC(C1=CC=CC=C1)[N+](C1=CC=CC=C1)(C)C | InChI=1S/C16H20N.6FH.Sb/c1-14(15-10-6-4-7-11-15)17(2,3)16-12-8-5-9-13-16;;;;;;;/h4-14H,1-3H3;6*1H;/q+1;;;;;;;+5/p-6
